US08629143B2
4-phenylthieno[2,3-d]pyridazin-7(6H)-one
A solution of 3-benzoylthiophene-2-carboxylic acid (0.497 g, 2.14 mmol) (Alfa Aesar) and hydrazine hydrate (0.50 mL, 8.8 mmol) in EtOH (6 mL) was stirred at 85° C. for 4 hours, concentrated, and azeotroped with toluene to give the title compound (0.50 g, 2.2 mmol) as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 8.28 (d, 1H), 7.69-7.75 (m, 2H), 7.51-7.59 (m, 4H).

reactant | 3-benzoylthiophene-2-carboxylic acid | 2.14 mmol, 0.497 g | C(C1=CC=CC=C1)(=O)C1=C(SC=C1)C(=O)O | C12H8O3S
reactant | hydrazine hydrate | 8.8 mmol, 0.50 mL | O.NN
solvent | EtOH | 6 mL | CCO | C2H6O
product | 4-phenylthieno[2,3-d]pyridazin-7(6H)-one | 2.2 mmol, 0.50 g | C1(=CC=CC=C1)C=1C2=C(C(NN1)=O)SC=C2 | C12H8N2OS
